US08242104B2
Step 2: 2-(1-trityl-1H-imidazol-2-yl)acetaldehyde
1.6 M of n-Butyllithium in hexane (7.5 mL) was added dropwise to a solution of 2-Methyl-1-trityl-1H-imidazole (3.244 g, 10.00 mmol) in Tetrahydrofuran (100.0 mL, 1233 mmol) at −76° C. The dark red mixture was stirred for 45 min. Ethyl formate (4.039 mL, 50.00 mmol) was added quickly and the mixture (turned yellowish) was stirred for 20 min. 6 ml of 5% aq. citric acid were added and the mixture was mixed with 60 ml of aq citric acid and extracted with ethyl acetate. The organic layer was washed with water, brine, dried over MgSO4 and concentrated in vacuum. Pale yellow semisolid material (2.025 g, 57.5%) was used in the next step without further purification.

reactant | n-Butyllithium | 1.6 M | C(CCC)[Li]
reactant | 2-Methyl-1-trityl-1H-imidazole | 10.00 mmol, 3.244 g | CC=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2
reactant | Tetrahydrofuran | 1233 mmol, 100.0 mL | O1CCCC1 | C4H8O
reactant | Ethyl formate | 50.00 mmol, 4.039 mL | C(=O)OCC | C3H6O2
reactant | citric acid | 6 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | citric acid | 60 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | hexane | 7.5 mL | CCCCCC | C6H14
product | 2-(1-trityl-1H-imidazol-2-yl)acetaldehyde | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=NC=C1)CC=O | C24H20N2O
